US04309443
2-{4-(2-Carbomethoxy-1-methylethenyl)phenyl}-1-methylethanamine
A solution of sodium hydroxide (6 g) in water (30 ml) was added to N-acetyl-2-{4-(2-carboethoxy-1-methylethenyl)phenyl}-1-methylethanamine (8.5 g) and the mixture stirred and heated under reflux for 8 hrs. The solution was cooled and evaporated to dryness. The residue was dissolved in methanol (30 ml) and made acid by addition of conc. HCl. The precipitated sodium chloride was removed by filtration, and the methanol solution dried over molecular sieves overnight. This solution was then added to a solution of thionyl chloride (8 ml) in dry methanol (10 ml) kept at -70° C. by Dry Ice/acetone. After warming to ambient temperature, the solution was stirred and heated under reflux for 1 hour. The solution was cooled, filtered and evaporated, the residue shaken with an aqueous solution of potassium carbonate and extracted with chloroform. The chloroform extract was dried (MgSO4) and evaporated to leave an oil, (2.8 g). τ(CDCl3) 8.9 (3H, d, J=8 Hz), 8.5 (2H, bs, exchangeable with D2O), 7.45 (3H, d, J=1.5 Hz). 7.2-7.4 (2H, m), 6.6-7.0 (1H, m), 6.3 (3H, s), 3.92 (1H, q, J=1.5 Hz), 2.5-3.0 (4H, m).

reactant | sodium hydroxide | 6 g | [OH-].[Na+]
reactant | N-acetyl-2-{4-(2-carboethoxy-1-methylethenyl)phenyl}-1-methylethanamine | 8.5 g | C(C)(=O)NC(CC1=CC=C(C=C1)C(=CC(=O)OCC)C)C | C17H23NO3
solvent | water | 30 ml | O | H2O
product | 2-{4-(2-Carbomethoxy-1-methylethenyl)phenyl}-1-methylethanamine | C(=O)(OC)C=C(C)C1=CC=C(C=C1)CC(N)C | C14H19NO2
